### PR TITLE
[Merged by Bors] - feat: finsupps with disjoint support commute

### PR DESCRIPTION
**Pull request by vihdzp**
We use this to golf our "backwards addition" induction principles.

---

Co-authored by @plp127 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Group/Finsupp.lean [hunk 1]
```diff
@@ -141,6 +141,16 @@ lemma _root_.AddEquiv.finsuppUnique_symm {M : Type*} [AddZeroClass M] (d : M) :
   rw [Finsupp.unique_single (AddEquiv.finsuppUnique.symm d), Finsupp.unique_single_eq_iff]
   simp [AddEquiv.finsuppUnique]
 
+theorem add_comm_of_disjoint {M} {f g : M →₀ N} (h : Disjoint f.support g.support) :
+    f + g = g + f := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Finsupp.lean]: Could you state this more generally as something like "AddCommute f g \iff \forall x \in f.support, x \in g support -> AddCommute (f x) (g x)`?

Comment (vihdzp) [reply Mathlib/Algebra/Group/Finsupp.lean]: Sure, I've added the generalization.

File: Mathlib/Algebra/Group/Finsupp.lean [hunk 2]
```diff
@@ -141,6 +141,21 @@ lemma _root_.AddEquiv.finsuppUnique_symm {M : Type*} [AddZeroClass M] (d : M) :
   rw [Finsupp.unique_single (AddEquiv.finsuppUnique.symm d), Finsupp.unique_single_eq_iff]
   simp [AddEquiv.finsuppUnique]
 
+theorem addCommute_of_inter {M} [DecidableEq M] {f g : M →₀ N}
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Finsupp.lean]: My suggestion was to make this an Iff

Comment (vihdzp) [reply Mathlib/Algebra/Group/Finsupp.lean]: Sorry for the delay! Just reproved this as an iff.

File: Mathlib/Algebra/Group/Finsupp.lean [hunk 3]
```diff
@@ -141,6 +141,21 @@ lemma _root_.AddEquiv.finsuppUnique_symm {M : Type*} [AddZeroClass M] (d : M) :
   rw [Finsupp.unique_single (AddEquiv.finsuppUnique.symm d), Finsupp.unique_single_eq_iff]
   simp [AddEquiv.finsuppUnique]
 
+theorem addCommute_iff_inter {M} [DecidableEq M] {f g : M →₀ N} :
```
Comment (eric-wieser) [inline Mathlib/Algebra/Group/Finsupp.lean]: Why not use the `ι` from further up the file?

Comment (plp127) [reply Mathlib/Algebra/Group/Finsupp.lean]:
```suggestion
theorem addCommute_iff_inter [DecidableEq ι] {f g : ι →₀ N} :
```

**Review by Ruben-VandeVelde — APPROVED** [review]
Maybe a few more disparate changes in this PR than I'd do myself, but it's okay.

Thanks!

maintainer merge

**Comment by bryangingechen** [comment]
Thanks!
bors r+
